US05593970
Step 3: 1,4-diacetyl-2,3-dimethylanthraquinone
To a stirred suspension of 2,3-dimethylquinizarin (5.00 g, 18.637 mmol) in dry CH2Cl2 (250 ml) was added acetic anhydride (40 ml) pyridine (40 ml) and dimethylaminopyridine (DMAP, 1.7 g) at room temperature under argon. After two hours, the reaction mixture was poured into a mixture of ethyl acetate and ice (1:1, 800 ml), extracted with CH2Cl2, and the combined organic layers were dryed over MgSO4. Flash chromatography with toluene and ethylacetate; (95.5%) gave 2.517 g of pure compound (38% yield). (MP: 222°-224° C.). 1H NMR (CDCl3) δ:2.27 (s, 6H, CH3, 2.53 (s, 6H, COCH3), 7.72 (m, 2H, ArH), 8.15 (m, 2H, ArH).

reactant | 2,3-dimethylquinizarin | 18.637 mmol, 5.00 g | CC1=C(C2=C(C(=C1C)O)C(=O)C3=CC=CC=C3C2=O)O | C16H12O4
reactant | acetic anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | dimethylaminopyridine | 1.7 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
product | 1,4-diacetyl-2,3-dimethylanthraquinone | 2.517 g, 38% yield | C(C)(=O)C1=C(C(=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)C(C)=O)C)C | C20H16O4
